US05189179
5-[(2,3-Dihydro-1,4-benzodioxin-2-yl)methylamino]-N-[4(trifluoromethyl)phenyl]-pentanamide, monohydrochloride
2,3-Dihydro-1,4-benzodioxin-2-methanamine (350 mg) and 5-chloro-N-[4-(trifluoromethyl)phenyl]-pentanamide (593 mg) were stirred in dimethylformamide (7.0 mL) under a nitrogen atmosphere. Sodium bicarbonate (395 mg) and potassium iodide (40 mg) were added and mixture was stirred for 60 hours at 70°-75° C. Saturated sodium bicarbonate solution (50 mL) was added to the cooled reaction and the mixture extracted with diethyl ether (3×30 mL). The combined extracts were dried (MgSO4), filtered, and concentrated in vacuo. The resulting oil was chromatographed eluting with 40:60 ethyl acetate:hexane, then 10:90 ethanol:ethyl acetate to give a yellow-white solid with an Rf of 0.15 in 50:50 ethyl acetate:ethanol. This solid was dissolved in ethanol (20 mL) and treated with 1.0M aqueous HCl (1.0 mL). The solution was concentrated in vacuo to a white solid which after recrystallization from ethanol:ethyl acetate afforded the title compound as a white powder (117 mg).

reactant | 2,3-Dihydro-1,4-benzodioxin-2-methanamine | 350 mg | O1C(COC2=C1C=CC=C2)CN | C9H11NO2
reactant | 5-chloro-N-[4-(trifluoromethyl)phenyl]-pentanamide | 593 mg | ClCCCCC(=O)NC1=CC=C(C=C1)C(F)(F)F | C12H13ClF3NO
reactant | Sodium bicarbonate | 395 mg | C([O-])(O)=O.[Na+]
reactant | potassium iodide | 40 mg | [I-].[K+]
reactant | sodium bicarbonate | 50 mL | C([O-])(O)=O.[Na+]
reactant | HCl | 1.0M, 1.0 mL | Cl | ClH
solvent | dimethylformamide | 7.0 mL | CN(C=O)C | C3H7NO
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 5-[(2,3-Dihydro-1,4-benzodioxin-2-yl)methylamino]-N-[4(trifluoromethyl)phenyl]-pentanamide, monohydrochloride | 117 mg | Cl.O1C(COC2=C1C=CC=C2)CNCCCCC(=O)NC2=CC=C(C=C2)C(F)(F)F | InChI=1S/C21H23F3N2O3.ClH/c22-21(23,24)15-8-10-16(11-9-15)26-20(27)7-3-4-12-25-13-17-14-28-18-5-1-2-6-19(18)29-17;/h1-2,5-6,8-11,17,25H,3-4,7,12-14H2,(H,26,27);1H
